US04297516
E-1-Tri-n-butylstannyl-4-methyl-4-trimethylsilyloxy-7-oxa-1-octene
To a stirred solution of 15 g. (0.069 moles) of 4-methyl-4-trimethylsilyloxy-7-oxa-1octyne and 75 mg. of azobisisobutyronitrile is added dropwise, under nitrogen atmosphere, 21.1 g. (0.073 moles) of tri-n-butyltin hydride. The solution is stirred at 130°-135° C. for 11/2 hours, then cooled to ambient temperature. Distillation provides 29 g. (86%) of product as a colorless oil; b.p. 165°-167° C. (0.25 mm.).

reactant | 4-methyl-4-trimethylsilyloxy-7-oxa-1octyne | 0.069 moles | CC(CC#C)(CCOC)O[Si](C)(C)C | C11H22O2Si
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tri-n-butyltin hydride | 0.073 moles | C(CCC)[SnH](CCCC)CCCC
product | E-1-Tri-n-butylstannyl-4-methyl-4-trimethylsilyloxy-7-oxa-1-octene | C(CCC)[Sn](\C=C\CC(CCOC)(O[Si](C)(C)C)C)(CCCC)CCCC | InChI=1S/C11H23O2Si.3C4H9.Sn/c1-7-8-11(2,9-10-12-3)13-14(4,5)6;3*1-3-4-2;/h1,7H,8-10H2,2-6H3;3*1,3-4H2,2H3;
